US04033993
Ethyl cyclooctyl carbonate
The product was obtained similarly as in Example 1 by reacting cyclooctanol with ethyl chloroformate and a colorless liquid was obtained.

reactant | cyclooctanol | C1(CCCCCCC1)O | C8H16O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | Ethyl cyclooctyl carbonate | C(OCC)(OC1CCCCCCC1)=O | C11H20O3
